US06048880
Diethyl 2-[(2,5-dichloro-3-thienyl)methyl]malonate (step 3)
To a stirred solution of sodium hydride (60% oil dispersion, 7.6 g, 190 mmol) in DMF (32 mL) was added a solution of diethyl malonate (35.2 g, 220 mmol) in THF (120 mL) at 0° C. and the mixture was stirred for 30 min at 0° C. To the mixture was added a solution of 3-(bromomethyl)-2,5-dichlorothiophene (26.9 g, 110 mmol) in THF (50 mL) at -35° C. over 1.5 hours. After stirring at -35° C. for 2 hours, the reaction mixture was poured into water and the whole extracted with ethyl acetate (200 mL×3). The combined organic layer was washed with water (200 mL), brine (200 mL), dried over MgSO4 and concentrated in vacuo. Fractionally distillation of the residue under reduced pressure (bp 150° C., 1.0 mmHg) provided the subtitle compound (28.6 g, 80% yield).

reactant | sodium hydride | 190 mmol, 7.6 g | [H-].[Na+]
reactant | diethyl malonate | 220 mmol, 35.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-(bromomethyl)-2,5-dichlorothiophene | 110 mmol, 26.9 g | BrCC1=C(SC(=C1)Cl)Cl | C5H3BrCl2S
reactant | water | O | H2O
solvent | DMF | 32 mL | CN(C)C=O | C3H7NO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Diethyl 2-[(2,5-dichloro-3-thienyl)methyl]malonate | 28.6 g, 80% yield | ClC=1SC(=CC1CC(C(=O)OCC)C(=O)OCC)Cl | C12H14Cl2O4S
